US09447070B2
To a solution of quinolin-6-yl-acetic acid (0.19 g, 1.02 mmol) in dry DMF (5 mL) was added CDI (0.16 g, 1.02 mmol). After 1 h of stirring at rt, 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.30 g, 0.81 mmol) was added. After 18 h, water (20 mL) was added. The solids were collected by filtration, washed with water and dried in vacuo for 18 h to give N-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)-2-(quinolin-6-yl)acetamide as a white solid (355 mg, 99%). HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 ml/min, 240 nm, 10/90, CH3CN/0.1% H3PO4, 4.54 min (95.6%); mp: 205-207° C.; 1H NMR (DMSO-d6) δ 1.89-2.10 (m, 1H), 2.37 (qd, J=4.3, 13.2 Hz, 1H), 2.63 (br. s., 1H), 2.80-3.02 (m, 1H), 3.73 (s, 2H), 4.12-4.30 (m, 1H), 4.30-4.48 (m, 3H), 5.10 (dd, J=5.1, 13.2 Hz, 1H), 7.29-7.47 (m, 2H), 7.52 (dd, J=4.2, 8.3 Hz, 1H), 7.60-7.76 (m, 2H), 7.84 (s, 1H), 7.97 (d, J=8.7 Hz, 1H), 8.32 (d, J=7.7 Hz, 1H), 8.75 (t, J=5.9 Hz, 1H), 8.87 (dd, J=1.7, 4.2 Hz, 1H), 10.99 (s, 1H); 13C NMR (DMSO-d6) δ 22.48, 31.18, 42.16, 42.31, 47.03, 51.55, 121.53, 122.02, 122.91, 127.07, 127.52, 127.72, 128.72, 130.36, 131.21, 134.66, 135.61, 142.32, 143.73, 146.73, 150.07, 167.87, 169.99, 170.98, 172.86. LCMS: MH=443; Anal Calcd for C25H22N4O4+1.6H2O: C, 63.71%; H, 5.39%; N, 11.89%. Found: C, 63.71%; H, 5.25%; N, 11.99%.

reactant | quinolin-6-yl-acetic acid | 1.02 mmol, 0.19 g | N1=CC=CC2=CC(=CC=C12)CC(=O)O | C11H9NO2
reactant | CDI | 1.02 mmol, 0.16 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 0.81 mmol, 0.30 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | water | 20 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)-2-(quinolin-6-yl)acetamide | 355 mg, 99% | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(CC=1C=C2C=CC=NC2=CC1)=O)=O)=O | C25H22N4O4
